US05578612
(R)-5-(2-Ethylsulphonylethenyl)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole
A mixture of (R)-5-bromo-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole (0.25 g), ethyl vinyl sulphone (0.14 g), tri-o-tolylphosphine (0.075 g), palladium (II) acetate (0.013 g), triethylamine (0.25 mL) and acetonitrile (3 mL) was heated under reflux for 17 hours in an atmosphere of nitrogen. The mixture was evaporated and the residue was chromatographed on silica gel. Elution with dichloromethane/ethanol/concentrated aqueous ammonia (90:8:1) gave the title compound as a foam (0.185 g): TLC (dichloromethane/-ethanol/concentrated aqueous ammonia, 90:10:1): Rf =0.5. Anal. Calcd for C18H24N2O2S. 0.2 CH2Cl2 : C,62.55; H,7.04; N,8.02. Found: C,62.65; H,6.94; N,7.92.

reactant | (R)-5-bromo-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole | 0.25 g | BrC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C | C14H17BrN2
reactant | ethyl vinyl sulphone | 0.14 g | C(=C)S(=O)(=O)CC | C4H8O2S
reactant | tri-o-tolylphosphine | 0.075 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 0.25 mL | C(C)N(CC)CC | C6H15N
catalyst | palladium (II) acetate | 0.013 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | (R)-5-(2-Ethylsulphonylethenyl)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole | 0.185 g | C(C)S(=O)(=O)C=CC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C | C18H24N2O2S
